US04731361
A solution of 7beta-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-butenoyl]amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid pivaloyloxymethyl ester (160 mg) in trifluoroacetic acid (2 ml) is stirred at room temperature for 120 minutes and concentrated. To the resulting residue is added aqueous sodium hydrogen carbonate and extracted with ethyl acetate. The extract solution is purified by silica gel chromatography to give 7beta-[(Z)-2-(2-aminothiazol-4-yl)-2-butenoyl]amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid pivaloyloxymethyl ester (75 mg).

reactant | 7beta-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-butenoyl]amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid pivaloyloxymethyl ester | 160 mg | C(C(C)(C)C)(=O)OCOC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=C/C)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)COC(N)=O | C27H35N5O10S2
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7beta-[(Z)-2-(2-aminothiazol-4-yl)-2-butenoyl]amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid pivaloyloxymethyl ester | 75 mg | C(C(C)(C)C)(=O)OCOC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=C/C)\C=2N=C(SC2)N)=O)=O)COC(N)=O | C22H27N5O8S2
